US05990105
0.162 g (0.00041 mol) of 4-(2,6-dibrompyridine-4-sulphonyl)-phenylamine was dissolved in 6 ml of dioxane and treated with 0.60 ml of 4-(3-aminopropyl)morpholine. The mixture was stirred at 60° C. for 24 hrs., the solvent was removed and the residue was chromatographed on silica gel with 3% methanol in dichloromethane. There was obtained 0.15 g (80%) of [4-(4-aminobenzenesulphonyl)-6-brompyridin-2-yl]-(3-morpholin-4-ylpropyl)amine as a white, amorphous solid. MS (ISP): me/e=457, 455 (C18H24BrN4O3S+).

reactant | 4-(2,6-dibrompyridine-4-sulphonyl)-phenylamine | 0.00041 mol, 0.162 g | BrC1=NC(=CC(=C1)S(=O)(=O)C1=CC=C(C=C1)N)Br | C11H8Br2N2O2S
reactant | 4-(3-aminopropyl)morpholine | 0.60 ml | NCCCN1CCOCC1 | C7H16N2O
solvent | dioxane | 6 ml | O1CCOCC1 | C4H8O2
product | [4-(4-aminobenzenesulphonyl)-6-brompyridin-2-yl]-(3-morpholin-4-ylpropyl)amine | 0.15 g, 80% | NC1=CC=C(C=C1)S(=O)(=O)C1=CC(=NC(=C1)Br)NCCCN1CCOCC1 | C18H23BrN4O3S
